### PR TITLE
Goevm general theorem arithmetic

### PR DESCRIPTION
**Pull request by gaberlunzie1**

### CODE REVIEW

File: RocqOfRust/revm/revm_interpreter/instructions/simulate/table.v [hunk 1]
```diff
@@ -2,25 +2,21 @@ Require Import links.RocqOfRust.
 Require Import core.links.array.
 Require Import revm.revm_context_interface.links.host.
 Require Import revm.revm_interpreter.instructions.links.arithmetic.
+Require Import revm.revm_interpreter.instructions.simulate.arithmetic.addmod.
+Require Import revm.revm_interpreter.instructions.simulate.arithmetic.mulmod.
```
Comment (cascade77) [inline RocqOfRust/revm/revm_interpreter/instructions/simulate/table.v]: Could we keep these new arithmetic simulation imports alphabetized? `mulmod` currently comes before `div`.

**Review by cascade77 — APPROVED** [review]

File: RocqOfRust/revm/revm_interpreter/gas/simulate/calc.v [hunk 2]
```diff
@@ -49,7 +50,39 @@ Proof.
...
+
+Lemma exp_cost_frontier_one_byte :
+  exp_cost SpecId.FRONTIER {| Uint.value := 255 |} =
+  Some {| Integer.value := 20 |}.
+Proof. reflexivity. Qed.
+
+Lemma exp_cost_spurious_dragon_two_bytes :
+  exp_cost SpecId.SPURIOUS_DRAGON {| Uint.value := 256 |} =
+  Some {| Integer.value := 110 |}.
+Proof. reflexivity. Qed.
```
Comment (clarus) [inline RocqOfRust/revm/revm_interpreter/gas/simulate/calc.v]: Putting these into a `Test` module, or a module whose name is prefixed by `Test`. Maybe we should have some sort of convention for it. You can add this convention to the corresponding `docs/` file!
